US09328118B2
Zinc (11 mg), 2-(di-tert-butylphosphino)biphenyl (23 mg), zinc cyanide (25 mg), and palladium (II) trifluoroacetate (12 mg) were added to a solution of 2-chloro-4-[4-ethoxy-3-(trifluoromethyl)phenyl]-7-methyl-7H-pyrrolo[2,3-d]pyrimidine (125 mg) in DMAc (2.5 mL) at room temperature in an argon atmosphere, and the mixture was stirred at 110° C. for 5 hours. After the reaction mixture was cooled to room temperature, EtOAc was added thereto, followed by stirring, and the insoluble material was separated by filtration using Celite. Extraction was performed on the filtrate using EtOAc, and the extract was washed with a saturated aqueous NaHCO3 solution, water and saturated brine. The organic layer was dried over MgSO4 and filtered, and the filtrate was concentrated under reduced pressure. The residue was purified by silica gel column chromatography (Hex:EtOAc=9:1 to 1:1), whereby 4-[4-ethoxy-3-(trifluoromethyl)phenyl]-7-methyl-7H-pyrrolo[2,3-d]pyrimidine-2-carbonitrile (52.9 mg) was obtained as a pale yellow solid.

reactant | 2-(di-tert-butylphosphino)biphenyl | 23 mg | C(C)(C)(C)P(C1=C(C=CC=C1)C1=CC=CC=C1)C(C)(C)C | C20H27P
reactant | 2-chloro-4-[4-ethoxy-3-(trifluoromethyl)phenyl]-7-methyl-7H-pyrrolo[2,3-d]pyrimidine | 125 mg | ClC=1N=C(C2=C(N1)N(C=C2)C)C2=CC(=C(C=C2)OCC)C(F)(F)F | C16H13ClF3N3O
reactant | EtOAc | CCOC(=O)C | C4H8O2
reactant | DMAc | 2.5 mL | CC(=O)N(C)C | C4H9NO
catalyst | Zinc | 11 mg | [Zn] | Zn
catalyst | zinc cyanide | 25 mg | [C-]#N.[Zn+2].[C-]#N
catalyst | palladium (II) trifluoroacetate | 12 mg | FC(C(=O)[O-])(F)F.[Pd+2].FC(C(=O)[O-])(F)F
product | 4-[4-ethoxy-3-(trifluoromethyl)phenyl]-7-methyl-7H-pyrrolo[2,3-d]pyrimidine-2-carbonitrile | 52.9 mg | C(C)OC1=C(C=C(C=C1)C=1C2=C(N=C(N1)C#N)N(C=C2)C)C(F)(F)F | C17H13F3N4O
